US07829580B2
(a) (E)-3-[(Pyrrol-2-yl)methylidene]-1-(triphenylmethyl)piperidin-4-one
To a solution of 1-(triphenylmethyl)piperidin-4-one (17.00 g) in tetrahydrofuran (400 ml) was added dropwise a 0.5N solution of potassium bis(trimethylsilyl)amide in toluene (100 ml) at −70° C., and the resulting mixture was stirred at the same temperature for 20 minutes. Subsequently, to the reaction mixture was added dropwise a solution of 1-(t-butoxycarbonyl)pyrrole-2-carbaldehyde (11.00 g) in tetrahydrofuran (100 ml) at −70° C., and the resulting mixture was stirred at the same temperature for 1 hour. After saturated aqueous ammonium chloride solution was added, the resulting reaction mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate, hexane, and dichloromethane (1:3:1) as the eluent to afford the title compound (7.26 g, yield: 35%) as a yellow amorphous solid.

reactant | 1-(triphenylmethyl)piperidin-4-one | 17.00 g | C1(=CC=CC=C1)C(N1CCC(CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-(t-butoxycarbonyl)pyrrole-2-carbaldehyde | 11.00 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=O | C10H13NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (E)-3-[(Pyrrol-2-yl)methylidene]-1-(triphenylmethyl)piperidin-4-one | 7.26 g, yield: 35% | N1C(=CC=C1)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H26N2O
